US07238808B2
5-[7-Difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 3-ethynyl-7-difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.15) (169 mg, 0.5 mmol) and commercially available 5-bromo-thiophene-2-sulfonamide (121 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (180 mg, 72%). MS (ISN) 497.0 [(M−H)−]; mp 225° C.

reactant | 3-ethynyl-7-difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 169 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=CC=C2)C(F)(F)F | C16H8F5N3
reactant | 5-bromo-thiophene-2-sulfonamide | 0.5 mmol, 121 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[7-Difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C2=CC(=CC=C2)C(F)(F)F)F | C20H11F5N4O2S2
